### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Simplex): simplex angle properties

### PR DESCRIPTION
**Pull request by jsm28**
Show that the angles of an equilateral simplex in a Euclidean space are `π / 3`, and define the property of a simplex (typically a triangle) being acute-angled.  (This property is more common and more useful than the alternatives of "has a right angle" and "has an obtuse angle", since when it's given that a triangle has one of the latter properties, normally it's stated *which* angle is a right angle or an obtuse angle, in which case you just have an equation or inequality for a given angle.  So while those other properties will be wanted eventually - occasionally a problem does involve such properties without stating which angle is involved - they are lower priority.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Simplex.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+lemma Equilateral.acuteAngled {s : Simplex ℝ P n} (he : s.Equilateral) : s.AcuteAngled := by
+  intro i₁ i₂ i₃ h₁₂ h₁₃ h₂₃
+  rw [he.angle_eq_pi_div_three h₁₂ h₁₃ h₂₃]
+  linarith [Real.pi_pos]
+
+end Simplex
+
+namespace Triangle
+
+lemma acuteAngled_iff_angle_and_angle_and_angle {t : Triangle ℝ P} : t.AcuteAngled ↔
```
Comment (jcommelin) [inline Mathlib/Geometry/Euclidean/Simplex.lean:69]:
```suggestion
lemma acuteAngled_iff_angle_lt {t : Triangle ℝ P} : t.AcuteAngled ↔
```
I'll leave it up to you, but I would also think this shorter name is descriptive enough.

**Review by jcommelin — COMMENTED** [review]
bors d+
